US09301951B2
(S)-2,5,8,11,14,17,20-heptaoxadocosan-22-yl 4-(2-(3-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)-N-methylbenzamido)ethyl)piperazine-1-carboxylate
This compound was prepared according to the procedure described for the synthesis of Example 214 substituting 212b in place of 213c. Into a 8-mL sealed tube, was placed a solution of (S)—N1-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-(piperazin-1-yl)ethyl)isophthalamide (150 mg, 0.22 mmol, 1.00 equiv) in acetonitrile (5 mL), 2,5,8,11,14,17,20-heptaoxadocosan-22-yl 4-nitrophenyl carbonate (165 mg, 0.33 mmol, 1.50 equiv), 4-dimethylaminopyridine (53 mg, 0.43 mmol, 2.00 equiv). The resulting solution was stirred for 5 h at 90° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 10 ml of water. The resulting solution was extracted with 3×30 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 3×30 mL of NH4Cl aq. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (1#-UV1-SHIMADZU-SPD-20A): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (30% CH3CN up to 50% in 6 min); Detector, Waters2545 UvDector 254&220 nm. 85.6 mg product was obtained. This resulted in 85.6 mg (28%) of (S)-2,5,8,11,14,17,20-heptaoxadocosan-22-yl 4-(2-(3-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)-N-methylbenzamido)ethyl)piperazine-1-carboxylate as a yellow solid. LC-MS (ES, m/z): 1055 [M+H]+ H-NMR (300 MHz, CD3OD, ppm): 8.92 (d, J=5.1 Hz, 1H), 8.60 (s, 1H), 8.35 (s, 1H), 8.13 (t, J=7.5 Hz, 2H), 7.69-7.85 (m, 4H), 7.44-7.46 (m, 1H), 7.26 (d, J=6.6 Hz, 1H), 7.14-7.19 (m, 3H), 5.38 (s, 1H), 4.26-4.86 (m, 3H), 3.99 (s, 2H), 3.63-3.74 (m, 31H), 3.52-3.61 (m, 6H), 3.31-3.34 (m, 5H), 3.09-3.12 (m, 3H), 2.84-2.91 (m, 2H), 1.90-1.97 (m, 4H), 1.21-1.26 (m, 6H).

reactant | (S)—N1-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(2-(piperazin-1-yl)ethyl)isophthalamide | 0.22 mmol, 150 mg, 1.00 equiv | C(C)N(C1=CC(=C(C=C1)NC(C1=CC(C(=O)N(CCN2CCNCC2)C)=CC=C1)=O)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C41H49N7O3
reactant | 2,5,8,11,14,17,20-heptaoxadocosan-22-yl 4-nitrophenyl carbonate | 0.33 mmol, 165 mg, 1.50 equiv | C(OCCOCCOCCOCCOCCOCCOCCOC)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H35NO12
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 0.43 mmol, 53 mg, 2.00 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | (S)-2,5,8,11,14,17,20-heptaoxadocosan-22-yl 4-(2-(3-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)-N-methylbenzamido)ethyl)piperazine-1-carboxylate | 85.6 mg | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)N(C)CCN2CCN(CC2)C(=O)OCCOCCOCCOCCOCCOCCOCCOC)C=CC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C57H79N7O12
